US05348976
Synthesis of N1 -[1-(5-chloro-2-benzofuranyl)ethyl]-N2 -isopropoxycarbonyl-L-valinamide (Compound Nos. 70, 71 and 296)
0.54 g of N-methylmorpholine, and subsequently 0.7 g of isopropyl chloroformate were added to a solution containing 1.57 g of N-[1-(5-chloro-2-benzofuranyl)ethyl]-2-amino-3-methylbutanamide hydrochloride dissolved in 40 ml of dichloromethane at -15° C. The mixture was allowed to sit and warm naturally to room temperature and stirred for 15 hours at room temperature. Water was subsequently added to the reaction mixture. After the dichloromethane layer was washed with water, the organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue, which was a crude crystal, was purified by column chromatography on silica gel, thus obtaining 0.85 g of the desired product in the form of a white powder.

reactant | N-methylmorpholine | 0.54 g | CN1CCOCC1 | C5H11NO
reactant | isopropyl chloroformate | 0.7 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | N-[1-(5-chloro-2-benzofuranyl)ethyl]-2-amino-3-methylbutanamide hydrochloride | 1.57 g | Cl.ClC=1C=CC2=C(C=C(O2)C(C)NC(C(C(C)C)N)=O)C1
reactant | Water | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N1 -[1-(5-chloro-2-benzofuranyl)ethyl]-N2 -isopropoxycarbonyl-L-valinamide | 0.85 g | ClC=1C=CC2=C(C=C(O2)C(C)NC([C@@H](NC(=O)OC(C)C)C(C)C)=O)C1 | C19H25ClN2O4
